US06384028B1
A mixture of 1-tert-butyldimethylsilyl-4(S)-ethynyl-2-azetidinone (3.0 g) and trimethylsilylazide (15 ml) was heated at 80° C. for 20 hours. The reaction mixture was allowed to room temperature and evaporated in vacuo. The residue was purified by column chromatography on silica gel eluting with n-hexane ethyl acetate=(1:1) to give 1-tert-butyldimethylsilyl-4(S)-(2H-1,2,3-triazol-4-yl)-2-azetidinone (0.3 g, 8.3%) as a pale yellow solid.

reactant | 1-tert-butyldimethylsilyl-4(S)-ethynyl-2-azetidinone | 3.0 g | [Si](C)(C)(C(C)(C)C)N1C(C[C@H]1C#C)=O | C11H19NOSi
reactant | trimethylsilylazide | 15 ml | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
product | 1-tert-butyldimethylsilyl-4(S)-(2H-1,2,3-triazol-4-yl)-2-azetidinone | 0.3 g, 8.3% | [Si](C)(C)(C(C)(C)C)N1C(C[C@H]1C1=NNN=C1)=O | C11H20N4OSi
